datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][C:14]([C:15]([C:16]([C:17]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19],43.5136
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:17])[H:3].[C:6]([C:7]([c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])[H:18])([H:14])([H:15])[H:16],36.8192
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]2([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]2[H:18])=[C:9]1[H:19]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]2=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]2([H:14])[H:18])=[C:9]1[H:19],80.3328
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])=[C:7]([C:8]([H:23])([H:24])[H:25])[H:22])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([C:6]([H:19])([H:20])[H:21])[C:7]1([C:8]([H:23])([H:24])[H:25])[H:22])([H:9])([H:10])[H:11],39.2459
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],33.472
[C:0](=[C:1]=[O:2])([H:3])[H:4].[S:5]([H:6])[H:7]>>[C:0](=[C:1]([O:2][H:6])[S:5][H:7])([H:3])[H:4],199.075
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6](=[C:7]([H:9])[H:10])[H:8],-8.368
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[c:9]1([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],121.42
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:10])[O:18][O:19])([H:7])([H:8])[H:9],-2.244716
[C:0]([S:1])([H:2])([H:3])[H:4].[O:5][O:6]>>[C:0](=[S:1])([H:3])[H:4].[H:2][O:5][O:6],34.73
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[O:11][O:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][O:11][O:12],92.048
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12],43.0952
[C:0](=[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:11].[H:10],205.20428
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([C:7]([C:8]([C:9]([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]1([H:21])[H:22])[H:10],29.2043
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],82.9687
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:5][C:6]([H:14])([H:15])[H:16])[H:7].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7].[S:5]([C:6]([H:14])([H:15])[H:16])[H:17],7.9496
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[S:3][C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:13])([H:5])[H:6].[C:4]([H:10])([H:11])[H:12],22.1752
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26],-2.092
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:12])([H:15])[H:16])([H:13])[H:14])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11],64.4336
